US07851473B2
(4) N-{4-[Acetyl(methyl)amino]phenyl}-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl {4-[acetyl(methyl)amino]phenyl}carbamate (200 mg, 0.589 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (144 mg, 0.589 mmol), diisopropylethylamine (0.103 ml, 0.589 mmol) and dimethylsulfoxide (4 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the desired product (80.0 mg, 31.3%) as a solid.

reactant | 2,2,2-trichloroethyl {4-[acetyl(methyl)amino]phenyl}carbamate | 0.589 mmol, 200 mg | C(C)(=O)N(C1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O)C | C12H13Cl3N2O3
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.589 mmol, 144 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.589 mmol, 0.103 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-{4-[Acetyl(methyl)amino]phenyl}-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | 80.0 mg, 31.3% | C(C)(=O)N(C1=CC=C(C=C1)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1)C | C23H25N5O2S
